US04550105
Under ice-cooling and stirring, 12 ml of an aqueous solution containing 632 mg of cis-4-acetoxymethyl-3-amino-2-oxoazetidine and 1.122 g of sodium hydrogen carbonate is added to a suspension of 2.36 g of 2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetyl chloride (syn-isomer) in 20 ml of tetrahydrofuran. The mixture is stirred for 2 hours at room temperature and the solvent is then distilled off in vacuo to leave the residue, which solidifies. Water is added to the solidified residue, followed by filtration. The collected crystals are washed successively with an aqueous sodium hyrogen carbonate solution, water and ether and dried to give cis-4-acetoxymethyl-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-2-oxoazetidine (syn-isomer), m.p. 180°-190° C. (dec.).

reactant | cis-4-acetoxymethyl-3-amino-2-oxoazetidine | 632 mg | C(C)(=O)OC[C@@H]1[C@@H](C(N1)=O)N | C6H10N2O3
reactant | sodium hydrogen carbonate | 1.122 g | C(O)([O-])=O.[Na+]
reactant | 2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetyl chloride | 2.36 g | ClCC(=O)NC=1SC=C(N1)C(C(=O)Cl)=NOC | C8H7Cl2N3O3S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | cis-4-acetoxymethyl-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-2-oxoazetidine | C(C)(=O)OC[C@@H]1[C@@H](C(N1)=O)NC(C(=NOC)C=1N=C(SC1)NC(CCl)=O)=O | C14H16ClN5O6S
